US07119102B2
Suspended 10% Pd/C (0.50g) into 100 mL EtOH under Ar. To this was added (R)-2-azido-1-(6-methyl-pyridin-2-yl)-ethanol (3.57 g, 20.74 mmol). The reaction was placed under atm. H2 for 12 h. LC-MS analysis indicted some remaining azide. Recharge with H2 atmospher and stir an additional 12 h. LC-MS analysis indicated complete reaction. The mixture was filtered through a bed of celite. The celite was rinsed with 100 mL of EtOH. The filtrate was concentrated to give 2.99 g of (R)-2-amino-1-(6-methyl-pyridin-2-yl)-ethanol.

reactant | (R)-2-azido-1-(6-methyl-pyridin-2-yl)-ethanol | 20.74 mmol, 3.57 g | N(=[N+]=[N-])C[C@@H](O)C1=NC(=CC=C1)C | C8H10N4O
reactant | azide | [N-]=[N+]=[N-]
catalyst | Pd/C | 0.50g | [Pd] | Pd
solvent | EtOH | 100 mL | CCO | C2H6O
product | (R)-2-amino-1-(6-methyl-pyridin-2-yl)-ethanol | 2.99 g | NC[C@@H](O)C1=NC(=CC=C1)C | C8H12N2O
